US07211592B2
N-(2-Hydroxy-4-methylphenyl)-4-methylbenzenesulfonamide
Pyridine (810 μl) and then, a little at a time, p-toluenesulfonyl chloride (1.91 g, 10 mmol) are added to a solution of 2-amino-5-methylphenol (1.23 g, 10 mmol) in CH2Cl2 (20 ml). The reaction mixture is stirred at 40° C. for 4 h. The solvent is distilled off under reduced pressure, ethyl acetate is added to the residue and the solid is filtered off with suction.

reactant | Pyridine | 810 μl | N1=CC=CC=C1 | C5H5N
reactant | p-toluenesulfonyl chloride | 10 mmol, 1.91 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | 2-amino-5-methylphenol | 10 mmol, 1.23 g | NC1=C(C=C(C=C1)C)O | C7H9NO
solvent | CH2Cl2 | 20 ml | C(Cl)Cl | CH2Cl2
product | N-(2-Hydroxy-4-methylphenyl)-4-methylbenzenesulfonamide | OC1=C(C=CC(=C1)C)NS(=O)(=O)C1=CC=C(C=C1)C | C14H15NO3S
